US05885990
Preparation of 6-cyano-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol:
To 28.4 g of 6-cyano-1-carboxy-2-naphthol were added 350 ml of acetonitrile, 18 ml of triethylamine and 33.2 g of dimethylcarbamoylmethyl bromide, followed by stirring for 24 hours at 70° C. and further 24 hours at room temperature. The resulting precipitate was collected by filtration and washed with water to obtain 31.2 g of the desired product.

reactant | 6-cyano-1-carboxy-2-naphthol | 28.4 g | C(#N)C=1C=C2C=CC(=C(C2=CC1)C(=O)O)O | C12H7NO3
reactant | acetonitrile | 350 ml | C(C)#N | C2H3N
reactant | dimethylcarbamoylmethyl bromide | 33.2 g | CN(C(=O)CBr)C | C4H8BrNO
solvent | triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
product | 6-cyano-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol | 31.2 g | C(#N)C=1C=C2C=CC(=C(C2=CC1)C(=O)OCC(N(C)C)=O)O | C16H14N2O4
